US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and 3-acetylbenzeneboronic acid were coupled in the same way as in Example 30 to give 1-{2′-fluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-3-yl}ethanone as an off-white solid (14 mg, 11%): m/z (ES+) 407 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 3-acetylbenzeneboronic acid | C(C)(=O)C=1C=C(C=CC1)B(O)O | C8H9BO3
product | 1-{2′-fluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-3-yl}ethanone | 14 mg, 11% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)C2=CC(=CC=C2)C(C)=O | C24H20F2N2O2
